US05231102
Trans-2-methoxycarbonyl-5,7-dichloro-4-(4-aminoethylphenyl)carbonylamino-1,2,3,4-tetrahydroquinoline hydrochloride
This compound was prepared by the method given for Example 82 using trans-2-carboxy-5,7-dichloro-4-(4-aminoethylphenyl)carbonylamino-1,2,3,4-tetrahydroquinoline hydrochloride Example 85, in the place of trans-2-carboxy-5,7-dichloro-4(3-aminomethylphenyl)carbonylamino-1,2,3,4-tetrahydroquinoline hydrochloride to give the title compound as a colourless crystalline solid, m.p. 218° C. (dec). δ (DMSO, 360 MHz) 1.78 (1H, ddd, J=13.2, 12.8 and 4.1 Hz, CHACHBHCCHD), 2.25 (1H, dm, J=13.2 Hz, CHACHBHCCHD), 2.92 (2H, t, J=7.0 Hz, CHE2CHF2), 3.04 (2H, t, J=7.0 Hz, CHE2CHF2), 3.71 (3H, s, CH3), 4.06 (1H, dd, J=12.5 and 2.4 Hz, CHACHBHCCHD), 5.26 (1H, m, CHACHBHCCHD), 6.69 (1H, d, J=2.0 Hz, 6-H or 8-H), 6.91 (1H, d, J=2.0 Hz, 6-H or 8-H), 6.94 (1H, s, Ar NHCH), 7.33 (2H, d, J=8.1 Hz, Ar-H), 7.86 (2H, d, J=8.1 Hz, Ar-H), 7.96 (2H, br, s, NH2), 8.70 (1H, d, J=7.1 Hz, NHCO); m/e (CI+, NH3) 422 (M+1); Found C, 48.59; H, 4.55; N, 8.48.C20H21Cl2N3O3.2HCl requires C, 48.51; H, 4.68; N, 8.48%.

reactant | trans-2-carboxy-5,7-dichloro-4-(4-aminoethylphenyl)carbonylamino-1,2,3,4-tetrahydroquinoline hydrochloride | Cl.C(=O)(O)[C@@H]1NC2=CC(=CC(=C2[C@H](C1)NC(=O)C1=CC=C(C=C1)CCN)Cl)Cl
reactant | trans-2-carboxy-5,7-dichloro-4(3-aminomethylphenyl)carbonylamino-1,2,3,4-tetrahydroquinoline hydrochloride | Cl.C(=O)(O)[C@@H]1NC2=CC(=CC(=C2[C@H](C1)NC(=O)C1=CC(=CC=C1)CN)Cl)Cl
product | Trans-2-methoxycarbonyl-5,7-dichloro-4-(4-aminoethylphenyl)carbonylamino-1,2,3,4-tetrahydroquinoline hydrochloride | Cl.COC(=O)[C@@H]1NC2=CC(=CC(=C2[C@H](C1)NC(=O)C1=CC=C(C=C1)CCN)Cl)Cl | InChI=1S/C20H21Cl2N3O3.ClH/c1-28-20(27)17-10-16(18-14(22)8-13(21)9-15(18)24-17)25-19(26)12-4-2-11(3-5-12)6-7-23;/h2-5,8-9,16-17,24H,6-7,10,23H2,1H3,(H,25,26);1H/t16-,17+;/m0./s1
